US06177419B1
6-(2-Hydroxy-3-methoxyphenyl)-6′-(2-hydroxy-5-methoxyphenyl)-2,2′-bipyridine was prepared from 6-bromo-6′-(2-hydroxy-3-methoxyphenyl)-2,2′-bipyridine and 2-hydroxy-5-methoxyphenylboronic acid in 16% yield using method F; δH [2H6]-DMSO 13.72,(1H, b), 12.48,(1H, b), 8.39,(1H, d), 8.32,(1H, d), 8,27-8.14,(4H, m), 7.72,(1H, d), 7.67,(1H, s), 7.09,(1H, d), 7.04-6.90,(3H, m), 3.86,(6H, s); MS 401 (MH)+; HPLC retention time (system 1) 3.98 minutes.

reactant | 6-bromo-6′-(2-hydroxy-3-methoxyphenyl)-2,2′-bipyridine | BrC1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C(=CC=C1)OC)O | C17H13BrN2O2
reactant | 2-hydroxy-5-methoxyphenylboronic acid | OC1=C(C=C(C=C1)OC)B(O)O | C7H9BO4
product | 6-(2-Hydroxy-3-methoxyphenyl)-6′-(2-hydroxy-5-methoxyphenyl)-2,2′-bipyridine | 16% yield | OC1=C(C=CC=C1OC)C1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C=CC(=C1)OC)O | C24H20N2O4
